US06635638B2
1-(3,4-Dimethoxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline
To a solution of tryptamine (5.0 g, 0.0312 mol) and 3,4-dimethoxy benzaldehyde (5.7 g, 0.0312 mol) in CH2Cl2 (220 mL) was added TFA (4.5 mL, 0.0584 mol). The deep blue solution was stirred at room temperature for 20 h. The reaction mixture was neutralized with NaHCO3 (4.9 g, 0.0584 mol) in H2O (50 mL) and the organic layer washed with brine (2×100 mL). The reaction mixture was dried with MgSO4 and the solvent evaporated. Product was isolated by column chromatography (silica gel; CH3OH:EtOAc=1:9) as a yellowish oil, which solidified slowly upon standing at room temperature.

reactant | tryptamine | 0.0312 mol, 5.0 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 3,4-dimethoxy benzaldehyde | 0.0312 mol, 5.7 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | TFA | 0.0584 mol, 4.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | 0.0584 mol, 4.9 g | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 220 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 50 mL | O | H2O
product | 1-(3,4-Dimethoxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline | COC=1C=C(C=CC1OC)C1NCCC=2C3=CC=CC=C3NC12 | C19H20N2O2
